2104-04-16 06:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   31yo male with history of inflammatory bowel disease post-operative day
   #8 from left colectomy was admitted with fever and abdominal pain from
   presumed sepsis related to C. diff infection.
   24 Hour Events:
   - taken to OR with 1800cc of cryo, 4 units of FFP, 400 cc of UOP.
   Total colectomy except for rectal stump (sent for c diff). Terminal
   ileum made into ileostomy. Distal aspect of colon was very inflammed.
   -dilaudid PCA
   -NG to suctioned, can be clamped for meds
   -Pepcid started for mild bloody NG output
   -Given LR @ 150/hr then lacate came back at 8 given 2 units of LR and 2
   units of blood
   -JP drain in place draining serous sanguinous fluid
   -started PO vanco per ID fellow, may start PR vanco in am
   -checked q 6 hr labs
   Allergies:
   Iodine; Iodine Containing
   burning
   tingli
   Pollen Extracts
   Unknown;
   Shellfish Derived
   Hives; Rash; Sh
   Last dose of Antibiotics:
   Metronidazole - [**2104-4-16**] 06:11 AM
   Vancomycin - [**2104-4-16**] 06:18 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2104-4-15**] 10:07 PM
   Diazepam (Valium) - [**2104-4-16**] 04:10 AM
   Dextrose 50% - [**2104-4-16**] 05:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-4-16**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.1
C (104.2
   Tcurrent: 37
C (98.6
   HR: 123 (123 - 160) bpm
   BP: 89/56(67) {86/40(61) - 166/60(90)} mmHg
   RR: 9 (9 - 31) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 18 (5 - 19)mmHg
   Total In:
                                                                 15,834 mL
                                                                  2,376 mL
   PO:
   TF:
   IVF:
                                                                  4,000 mL
                                                                  1,250 mL
   Blood products:
                                                                  1,809 mL
                                                                  1,101 mL
   Total out:
                                                                  1,450 mL
                                                                  1,320 mL
   Urine:
                                                                    960 mL
                                                                  1,000 mL
   NG:
                                                                    180 mL
   Stool:
   Drains:
                                                                    100 mL
                                                                    140 mL
   Balance:
                                                                 14,384 mL
                                                                  1,056 mL
   Respiratory support
   O2 Delivery Device: Medium conc mask
   SpO2: 98%
   ABG: 7.41/42/89.[**Numeric Identifier 126**]/24/1
   PaO2 / FiO2: 223
   Physical Examination
   HEENT: Clear OP, dry mucous membranes
   NECK: Supple, No LAD, No JVD
   CV: tachycardic, no murmurs / rubs / gallops, normal S1, S2
   ABD: + BS, tender to soft palpation, voluntary guarding
   EXT: No edema. 2+ DP pulses BL
   SKIN: No lesions
   NEURO: A&Ox3. Appropriate. Normal coordination. Gait assessment
   deferred
   Labs / Radiology
   354 K/uL
   9.9 g/dL
   55 mg/dL
   1.1 mg/dL
   24 mEq/L
   5.2 mEq/L
   10 mg/dL
   105 mEq/L
   139 mEq/L
   29.2 %
   38.0 K/uL
        [image002.jpg]
                             [**2104-4-15**]  05:55 PM
                             [**2104-4-15**]  07:00 PM
                             [**2104-4-15**]  07:15 PM
                             [**2104-4-15**]  07:48 PM
                             [**2104-4-15**]  09:47 PM
                             [**2104-4-15**]  10:00 PM
                             [**2104-4-16**]  12:27 AM
                             [**2104-4-16**]  12:43 AM
                             [**2104-4-16**]  04:46 AM
                             [**2104-4-16**]  05:01 AM
   WBC
   27.0
   34.0
   35.6
   38.0
   Hct
   25
   22.7
   24
   25.8
   24.5
   29.2
   Plt
   359
   439
   376
   354
   Cr
   1.1
   1.1
   TCO2
   22
   25
   24
   20
   24
   28
   Glucose
   110
   93
   35
   55
   Other labs: PT / PTT / INR:19.5/39.2/1.8, ALT / AST:64/81, Alk Phos / T
   Bili:64/1.4, Differential-Neuts:78.0 %, Band:19.0 %, Lymph:0.0 %,
   Mono:2.0 %, Eos:0.0 %, Fibrinogen:399 mg/dL, Lactic Acid:4.1 mmol/L,
   Albumin:2.7 g/dL, Ca++:8.1 mg/dL, Mg++:1.5 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   31yo male with history of inflammatory bowel disease post-operative day
   #8 from left colectomy was admitted with fever and abdominal pain from
   presumed sepsis related to C. diff infection.
   .
   1. Sepsis
   Patient has evidence of sepsis given elevated temperature, heart rate,
   leukocytosis, and bandemia. Source of infection is likely related to
   recent bowel surgery. Remarkable leukocytosis makes C. diff most
   likely. Additional possibilities though certainly include blood or
   urinary infections given shaking chills, recent foley placement, recent
   hospitalization, etc . . . No evidence of pulmonary infection on
   history, exam, or CXR.
   - follow-up blood, urine, and stool cultures
   - follow-up C. diff assay
   - continue to treat presumptively for C. diff with metronidazole
   - will continue fluoroquinolone to treat presumptively for gram
   negative infection given likely GI source
   - continue to bolus prn with lactated ringer's
   - maintain at least two peripheral IVs
   - patient going to the OR for colectomy
   .
   2. Inflammatory Bowel Disease
   Unclear if patient has Crohn's Disease or ulcerative colitis. Patient
   is s/p left sided hemicolectomy and has been refractory to medical
   therapy. Patient to go to the OR with surgery for likely colectomy.
   - colectomy per surgery
   - dilaudid prn for pain control
   - continue cipro / metronidazole as above
   - will follow-up with surgery in the AM regarding hydroxychloroquine
   .
   3. Depression
   Stable
   - continue citalopram
   .
   4. Iron deficiency Anemia
   Patient has iron deficiency anemia per previous labs in [**3-3**].
   - will follow-up with surgery in the AM regarding restarting ferrous
   sulfate
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2104-4-15**] 04:19 PM
   Arterial Line - [**2104-4-15**] 10:12 PM
   Multi Lumen - [**2104-4-15**] 10:12 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2104-04-16 11:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   31yo male with history of inflammatory bowel disease post-operative day
   #8 from left colectomy was admitted with fever and abdominal pain from
   sepsis related to C. diff infection.
   24 Hour Events:
   - taken to OR with 1800cc of cryo, 4 units of FFP, 400 cc of UOP.
   Total colectomy except for rectal stump (sent for c diff). Terminal
   ileum made into ileostomy. Distal aspect of colon was very inflammed.
   -dilaudid PCA
   -NG to suctioned, can be clamped for meds
   -Pepcid started for mild bloody NG output
   -Given LR @ 150/hr then lactate came back at 8 given 2 units of LR and
   2 units of blood, and 2 units FFP
   -JP drain in place draining serous sanguinous fluid
   -started PO vanco per ID fellow, may start PR vanco in am
   -checked q 6 hr labs
   -came back c diff positive
   -valium and dilaudid for pain
   Allergies:
   Iodine; Iodine Containing
   burning
   tingli
   Pollen Extracts
   Unknown;
   Shellfish Derived
   Hives; Rash; Sh
   Last dose of Antibiotics:
   Metronidazole - [**2104-4-16**] 06:11 AM
   Vancomycin - [**2104-4-16**] 06:18 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2104-4-15**] 10:07 PM
   Diazepam (Valium) - [**2104-4-16**] 04:10 AM
   Dextrose 50% - [**2104-4-16**] 05:02 AM
   Famotidine (Pepcid) - [**2104-4-16**] 08:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-4-16**] 11:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.1
C (104.2
   Tcurrent: 35.9
C (96.7
   HR: 121 (116 - 160) bpm
   BP: 92/49(63) {86/40(61) - 166/60(90)} mmHg
   RR: 16 (8 - 31) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 10 (5 - 19)mmHg
   Total In:
                                                                 15,366 mL
                                                                  3,790 mL
   PO:
   TF:
   IVF:
                                                                  3,532 mL
                                                                  2,664 mL
   Blood products:
                                                                  1,809 mL
                                                                  1,101 mL
   Total out:
                                                                  1,450 mL
                                                                  2,660 mL
   Urine:
                                                                    960 mL
                                                                  2,140 mL
   NG:
                                                                    180 mL
   Stool:
   Drains:
                                                                    100 mL
                                                                    340 mL
   Balance:
                                                                 13,916 mL
                                                                  1,130 mL
   Respiratory support
   O2 Delivery Device: Medium conc mask
   SpO2: 98%
   ABG: 7.41/42/89.[**Numeric Identifier 126**]/27/1
   PaO2 / FiO2: 223
   Physical Examination
   Gen: ill-appearing, uncomfortable
   NECK: No JVD
   CV: tachycardic, no murmurs / rubs / gallops, normal S1, S2
   ABD: + BS, tender to soft palpation especially on left side
   EXT: No edema. 2+ DP pulses BL
   SKIN: No lesions
   NEURO: able to follow commands and converse normally
   Labs / Radiology
   354 K/uL
   9.9 g/dL
   59 mg/dL
   1.0 mg/dL
   27 mEq/L
   4.5 mEq/L
   10 mg/dL
   107 mEq/L
   144 mEq/L
   29.2 %
   38.0 K/uL
        [image002.jpg]
                             [**2104-4-15**]  07:00 PM
                             [**2104-4-15**]  07:15 PM
                             [**2104-4-15**]  07:48 PM
                             [**2104-4-15**]  09:47 PM
                             [**2104-4-15**]  10:00 PM
                             [**2104-4-16**]  12:27 AM
                             [**2104-4-16**]  12:43 AM
                             [**2104-4-16**]  04:46 AM
                             [**2104-4-16**]  05:01 AM
                             [**2104-4-16**]  09:48 AM
   WBC
   27.0
   34.0
   35.6
   38.0
   Hct
   25
   22.7
   24
   25.8
   24.5
   29.2
   Plt
   359
   439
   376
   354
   Cr
   1.1
   1.1
   1.0
   TCO2
   25
   24
   20
   24
   28
   Glucose
   110
   93
   35
   55
   59
   Other labs: PT / PTT / INR:19.5/39.2/1.8, ALT / AST:67/64, Alk Phos / T
   Bili:81/2.6, Differential-Neuts:78.0 %, Band:19.0 %, Lymph:0.0 %,
   Mono:2.0 %, Eos:0.0 %, Fibrinogen:399 mg/dL, Lactic Acid:3.2 mmol/L,
   Albumin:2.7 g/dL, LDH:206 IU/L, Ca++:9.4 mg/dL, Mg++:3.0 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
   31yo male with history of inflammatory bowel disease post-operative day
   #8 from left colectomy was admitted with fever and abdominal pain from
   presumed sepsis related to C. diff infection.
   .
   1. Sepsis: Picture is distributive shock.  Pt s/p 14 L of fluid
   yesterday.  Pt with volume expansion acidosis. Patient has evidence of
   sepsis given elevated temperature, heart rate, leukocytosis, and
   bandemia. Likely secondary to c diff infection as pt came back + for c
   diff.  Pt s/p colectomy with rectal stump and ileostomy.
   -continue IV flagyl and PO Vanco, further discuss with surgery PR vanco
   - follow-up blood, urine
   - bolus PRN with LR
   - maintain at least two peripheral IVs
   -follow lactate q 4hrs
   -follow UOP, mentation, and LFTs to look for end organ ischemia and
   evidence of DIC.  Would check DIC labs if concern for DIC.
   .
   2. Inflammatory Bowel Disease: likelu Crohn's Disease.  Patient was s/p
   left sided hemicolectomy and has been refractory to medical therapy.
   Now s/p colectomy with rectal stump and end ileostomy.
   - dilaudid PCA for pain control, okay with SBP in the 80s as pt
   mentating well
   - ativan to assist with anxiety
   - continue cipro / metronidazole as above
   - vit K 5 IV x1 to help with clotting post surgery
   -q 4hr CBC & lactate & chem 10
   .
   3. Hypoglycemia;
   -check sugars q2 hrs in the setting of sepsis, checking LFTs to help
   figure out if pt has trouble with GNG
   -would favor D51/2NS over LR
   .
   4. Depression
   - continue citalopram
   .
   5. Iron deficiency Anemia
   Patient has iron deficiency anemia per previous labs in [**3-3**].
   - will follow-up with surgery regarding restarting ferrous sulfate
   -q 4hr HCT
   ICU Care
   Nutrition: NPo
   Glycemic Control:
   Lines:
   18 Gauge - [**2104-4-15**] 04:19 PM
   Arterial Line - [**2104-4-15**] 10:12 PM
   Multi Lumen - [**2104-4-15**] 10:12 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: pepcid
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU for now

2104-04-17 07:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 31yo male with history of inflammatory bowel disease
   post-operative day #9 from left colectomy was admitted with fever and
   abdominal pain from sepsis related to C. diff infection.
   24 Hour Events:
   GPCs grew from peritoneal fluid->started on IV vancomycin
   Given D51/2NS maintainence fluid and still low blood sugars.
   Lactate trended down to normal
   Given IV vit K for elevated INR
   LFTs trending down except for Tbili
   ID suggested IVIG but surgery did not want because he is getting
   better.
   Allergies:
   Iodine; Iodine Containing
   burning
   tingli
   Pollen Extracts
   Unknown;
   Shellfish Derived
   Hives; Rash; Sh
   Last dose of Antibiotics:
   Metronidazole - [**2104-4-17**] 12:01 AM
   Vancomycin - [**2104-4-17**] 01:19 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2104-4-16**] 05:22 PM
   Famotidine (Pepcid) - [**2104-4-16**] 08:31 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-4-17**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.6
C (97.8
   HR: 111 (110 - 129) bpm
   BP: 105/72(84) {92/48(63) - 117/103(107)} mmHg
   RR: 12 (0 - 29) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
    CVP: 16 (8 - 24)mmHg
   Total In:
                                                                  6,077 mL
                                                                    795 mL
   PO:
                                                                     60 mL
                                                                     20 mL
   TF:
   IVF:
                                                                  4,892 mL
                                                                    775 mL
   Blood products:
                                                                  1,101 mL
   Total out:
                                                                  5,180 mL
                                                                    565 mL
   Urine:
                                                                  4,210 mL
                                                                    420 mL
   NG:
                                                                    180 mL
   Stool:
   Drains:
                                                                    750 mL
                                                                    145 mL
   Balance:
                                                                    897 mL
                                                                    230 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   Gen: comfortable
   NECK: No JVD
   CV: tachycardic, no murmurs / rubs / gallops, normal S1, S2
   ABD: + BS, tender to soft palpation especially on left side
   EXT: No edema. 2+ DP pulses BL
   SKIN: No lesions
   NEURO: able to follow commands and converse normally
   Labs / Radiology
   288 K/uL
   9.1 g/dL
   95 mg/dL
   0.9 mg/dL
   29 mEq/L
   4.3 mEq/L
   10 mg/dL
   107 mEq/L
   142 mEq/L
   28.1 %
   30.2 K/uL
        [image002.jpg]
                             [**2104-4-15**]  10:00 PM
                             [**2104-4-16**]  12:27 AM
                             [**2104-4-16**]  12:43 AM
                             [**2104-4-16**]  04:46 AM
                             [**2104-4-16**]  05:01 AM
                             [**2104-4-16**]  09:48 AM
                             [**2104-4-16**]  01:34 PM
                             [**2104-4-16**]  02:21 PM
                             [**2104-4-16**]  06:07 PM
                             [**2104-4-17**]  03:55 AM
   WBC
   35.6
   38.0
   41.3
   30.2
   Hct
   24.5
   29.2
   29.8
   28.1
   Plt
   376
   354
   333
   288
   Cr
   1.1
   1.0
   1.0
   0.9
   0.9
   TCO2
   20
   24
   28
   Glucose
   55
   59
   63
   88
   95
   Other labs: PT / PTT / INR:16.9/35.6/1.5, Lactic Acid:1.6 mmol/L,
   Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   31yo male with history of inflammatory bowel disease post-operative day
   #8 from left colectomy was admitted with fever and abdominal pain from
   presumed sepsis related to C. diff infection.
   .
   1. C. Diff Sepsis:  Patient hemodynamically stable.  Patient s/p 14 L
   fluid resusitation on admission.  Lactate trending down to 1.3.  WBC
   trending downward.  Patient has had low grade temps overnight to
   100.3.   At this point, patient is clinically improving so have
   deferred PR Vancomycin.  If patient clinically deteriorates, can
   consider IgG therapy.
   -continue IV flagyl and PO Vanco
   - follow-up blood, urine
   - bolus PRN with LR
   - follow UOP
   .
   2. Inflammatory Bowel Disease: likely Crohn's Disease.  Patient is now
   s/p colectomy with rectal stump and end ileostomy.  Patient
   peritoneal fluid sample has grown sparce GPCs.  Will follow for
   speciation.  As patient is post op, concern for possible peritonitis.
   Patient
s INR has trended downward with Vitamin K admin.
   - Continue Vancomycin 1g [**Hospital1 7**]
   - Continue dilaudid pca, toradol
   - ativan to assist with anxiety
   - continue PO Vanco / metronidazole
   .
   3. Hypoglycemia;  Patient
s blood sugars have been generally > 100.
   - Monitor BS
   4.  Respiratory:  Patient with 3L oxygen requirement.  Patient with
   bibasilar crackles on examination, likely either related to pulmonary
   edema versus ateletasis.  Given patient
s post-op nature, will defer
   diuresis and place IS at bedside.
   - IS at bedside
   - OOB to chair, ambulate as tolerated
   5. Depression
   - continue citalopram
   .
   6. Iron deficiency Anemia:  HCT stable post operatively.
   - [**Hospital1 7**] HCT
   7. Elevated Total Bilirubin:  Patient
s AP has been trending upward
   over past several days, Direct Bilirubin also trending upward,
   concerning for cholestatic pattern.
   - Trend LFTs
   - Consider RUQ u/s
   # Access:  d/c A-Line, continue CVL for 1 more day
   # PPx:  Pneumoboots, d/c Famotidine
   ICU Care
   Nutrition: NPo
   Glycemic Control:
   Lines:
   18 Gauge - [**2104-4-15**] 04:19 PM
   Arterial Line - [**2104-4-15**] 10:12 PM
   Multi Lumen - [**2104-4-15**] 10:12 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: None
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU for now

2104-04-18 06:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -bolused for decreased UOP
   -Dbili elevated but surgery wanted to hold off of RUQ u/s
   -H2 blocker restarted due to dyspepsia
   -vanco trough was low today
   Allergies:
   Iodine; Iodine Containing
   burning
   tingli
   Pollen Extracts
   Unknown;
   Shellfish Derived
   Hives; Rash; Sh
   Last dose of Antibiotics:
   Vancomycin - [**2104-4-18**] 02:10 AM
   Metronidazole - [**2104-4-18**] 06:08 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2104-4-17**] 11:09 PM
   Heparin Sodium (Prophylaxis) - [**2104-4-18**] 06:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-4-18**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.6
C (96.1
   HR: 105 (92 - 123) bpm
   BP: 113/77(84) {101/64(71) - 113/78(84)} mmHg
   RR: 17 (6 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
    CVP: 11 (5 - 18)mmHg
   Total In:
                                                                  3,774 mL
                                                                  1,431 mL
   PO:
                                                                    260 mL
   TF:
   IVF:
                                                                  3,514 mL
                                                                  1,431 mL
   Blood products:
   Total out:
                                                                  1,351 mL
                                                                    560 mL
   Urine:
                                                                    906 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
                                                                    395 mL
                                                                    140 mL
   Balance:
                                                                  2,423 mL
                                                                    871 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///34/
   Physical Examination
   Gen: comfortable
   NECK: No JVD
   CV: tachycardic, no murmurs / rubs / gallops, normal S1, S2
   ABD: + BS, tender to soft palpation especially on left side
   EXT: No edema. 2+ DP pulses BL
   SKIN: No lesions
   NEURO: able to follow commands and converse normally
   Labs / Radiology
   234 K/uL
   9.6 g/dL
   75 mg/dL
   0.8 mg/dL
   34 mEq/L
   4.4 mEq/L
   12 mg/dL
   108 mEq/L
   146 mEq/L
   29.4 %
   12.8 K/uL
        [image002.jpg]
                             [**2104-4-16**]  12:43 AM
                             [**2104-4-16**]  04:46 AM
                             [**2104-4-16**]  05:01 AM
                             [**2104-4-16**]  09:48 AM
                             [**2104-4-16**]  01:34 PM
                             [**2104-4-16**]  02:21 PM
                             [**2104-4-16**]  06:07 PM
                             [**2104-4-17**]  03:55 AM
                             [**2104-4-17**]  03:30 PM
                             [**2104-4-18**]  04:49 AM
   WBC
   38.0
   41.3
   30.2
   20.5
   12.8
   Hct
   29.2
   29.8
   28.1
   27.4
   29.4
   Plt
   354
   333
   288
   249
   234
   Cr
   1.1
   1.0
   1.0
   0.9
   0.9
   0.8
   0.8
   TCO2
   24
   28
   Glucose
   55
   59
   63
   88
   95
   75
   75
   Other labs: PT / PTT / INR:15.5/35.6/1.4, ALT / AST:56/46, Alk Phos / T
   Bili:184/2.8, Differential-Neuts:86.8 %, Band:0.0 %, Lymph:8.1 %,
   Mono:2.3 %, Eos:2.6 %, Fibrinogen:399 mg/dL, Lactic Acid:1.4 mmol/L,
   Albumin:2.4 g/dL, LDH:203 IU/L, Ca++:7.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
   31yo male with history of inflammatory bowel disease post-operative day
   #8 from left colectomy was admitted with fever and abdominal pain from
   presumed sepsis related to C. diff infection.
   .
   1. C. Diff Sepsis:  Patient hemodynamically stable.  Patient s/p 14 L
   fluid resusitation on admission.  Lactate trending down to 1.3.  WBC
   trending downward.  Patient has had low grade temps overnight to
   100.3.   At this point, patient is clinically improving so have
   deferred PR Vancomycin.  If patient clinically deteriorates, can
   consider IgG therapy.
   -continue IV flagyl and PO Vanco
   - follow-up blood, urine
   - bolus PRN with LR
   - follow UOP
   .
   2. Inflammatory Bowel Disease: likely Crohn's Disease.  Patient is now
   s/p colectomy with rectal stump and end ileostomy.  Patient
   peritoneal fluid sample has grown sparce GPCs.  Will follow for
   speciation.  As patient is post op, concern for possible peritonitis.
   Patient
s INR has trended downward with Vitamin K admin.
   - Continue Vancomycin 1g [**Hospital1 7**]
   - Continue dilaudid pca, toradol
   - ativan to assist with anxiety
   - continue PO Vanco / metronidazole
   .
   3. Hypoglycemia;  Patient
s blood sugars have been generally > 100.
   - Monitor BS
   4.  Respiratory:  Patient with 3L oxygen requirement.  Patient with
   bibasilar crackles on examination, likely either related to pulmonary
   edema versus ateletasis.  Given patient
s post-op nature, will defer
   diuresis and place IS at bedside.
   - IS at bedside
   - OOB to chair, ambulate as tolerated
   5. Depression
   - continue citalopram
   .
   6. Iron deficiency Anemia:  HCT stable post operatively.
   - [**Hospital1 7**] HCT
   7. Elevated Total Bilirubin:  Patient
s AP has been trending upward
   over past several days, Direct Bilirubin also trending upward,
   concerning for cholestatic pattern.
   - Trend LFTs
   - Consider RUQ u/s
   # Access:  d/c A-Line, continue CVL for 1 more day
   # PPx:  Pneumoboots, d/c Famotidine
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2104-4-15**] 04:19 PM
   Multi Lumen - [**2104-4-15**] 10:12 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: